US08440652B2
General method D was applied to N-(cyclopropylmethyl)-N-methyl-6-(trimethylstannyl)pyridine-3-sulfonamide (233 mg, 0.6 mmol) and 6-(2-amino-5-bromopyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one (190 mg, 0.6 mmol) to give 6′-amino-N-(cyclopropylmethyl)-N-methyl-5′-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-[2,3′-bipyridine]-5-sulfonamide as a yellow solid (127 mg, 0.27 mmol, 46% yield) after purification by reverse phase preparatory HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.87 (d, J=1.5 Hz, 1H), 8.84 (d, J=2.3 Hz, 1H), 8.05-8.19 (m, 3H), 7.90-7.98 (m, 2H), 7.43-7.50 (m, 2H), 6.34 (s, 2H), 3.38-3.45 (m, 2H), 2.97 (t, J=1.0 Hz, 2H), 2.91 (d, J=6.8 Hz, 2H), 2.80 (s, 3H), 0.85-0.96 (m, 1H), 0.43-0.51 (m, 2H), 0.16-0.21 (m, 2H); MS (EI) m/z=464.5 [M+1]+.

reactant | N-(cyclopropylmethyl)-N-methyl-6-(trimethylstannyl)pyridine-3-sulfonamide | 0.6 mmol, 233 mg | C1(CC1)CN(S(=O)(=O)C=1C=NC(=CC1)[Sn](C)(C)C)C
reactant | 6-(2-amino-5-bromopyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.6 mmol, 190 mg | NC1=NC=C(C=C1C=1C=C2CCNC(C2=CC1)=O)Br | C14H12BrN3O
product | 6′-amino-N-(cyclopropylmethyl)-N-methyl-5′-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-[2,3′-bipyridine]-5-sulfonamide | 0.27 mmol, 127 mg, 46% yield | NC1=C(C=C(C=N1)C1=NC=C(C=C1)S(=O)(=O)N(C)CC1CC1)C=1C=C2CCNC(C2=CC1)=O | C24H25N5O3S
